* File: XNOR2D2.cdl.pex
* Created: Wed Jan 15 21:06:27 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_XNOR2D2%IN2 3 6 9 12 17 21 22 24 27 28 29 30 33 35 38 40 41 47 50 51
+ 53 55 60
c107 60 0 0.0121749f
c108 55 0 0.00551394f
c109 53 0 0.259031f
c110 51 0 0.0244413f
c111 50 0 0.109502f
c112 47 0 0.0385196f
c113 41 0 0.157454f
c114 40 0 0.0898049f
c115 38 0 0.0338126f
c116 35 0 0.303046f
c117 33 0 0.552358f
c118 30 0 0.401291f
c119 29 0 0.028809f
c120 28 0 0.837288f
c121 27 0 0.0505473f
c122 24 0 0.277501f
c123 22 0 0.401415f
c124 21 0 0.207939f
r125 54 55 0.0417772
r126 53 60 0.0417772
r127 53 54 1.16667
r128 47 60 0.0233333
r129 47 49 0.488662
r130 40 55 0.0233333
r131 40 41 0.512484
r132 37 52 0.049177
r133 37 38 2.33333
r134 35 52 0.831548
r135 33 38 0.279364
r136 33 51 12.8333
r137 31 50 0.071516
r138 30 51 0.282372
r139 28 50 0.473684
r140 28 29 16.1667
r141 27 29 0.279364
r142 27 49 1.41667
r143 22 44 0.831548
r144 21 24 0.831548
r145 21 43 3.58333
r146 18 44 0.049177
r147 18 41 2.58333
r148 17 43 0.387484
r149 17 40 0.125
r150 12 30 2.5
r151 12 31 2.5
r152 9 24 1.25
r153 6 35 2.5
r154 3 22 2.5
.ends

.subckt PM_XNOR2D2%net1 1 6 11 14 24 27 28 30 31 35 37 45 46 49 50 54 57 59 61
+ 62 67
c97 67 0 0.0317591f
c98 62 0 0.0163961f
c99 61 0 0.0327328f
c100 59 0 0.0376027f
c101 57 0 0.0388532f
c102 54 0 0.101792f
c103 50 0 0.203648f
c104 49 0 0.450077f
c105 46 0 0.0515849f
c106 45 0 0.0213953f
c107 37 0 0.0487441f
c108 35 0 0.229771f
c109 31 0 0.102556f
c110 30 0 0.885539f
c111 28 0 0.0935145f
c112 27 0 0.149602f
c113 24 0 0.130488f
r114 59 71 0.0417772
r115 59 67 0.14
r116 57 62 0.0417772
r117 57 61 0.14
r118 54 61 0.0684127
r119 50 67 0.0684127
r120 45 71 0.0233333
r121 45 46 0.494913
r122 42 45 0.15
r123 40 62 0.0233333
r124 37 40 0.166667
r125 34 49 8.33333
r126 30 34 1
r127 28 46 2
r128 26 42 0.32581
r129 26 27 3.66667
r130 25 37 0.298409
r131 24 27 0.279364
r132 24 25 1.83333
r133 14 31 0.11854
r134 14 28 1.03869
r135 14 30 4.875
r136 14 31 4.875
r137 11 35 0.125
r138 11 49 0.407372
r139 11 35 1.125
r140 6 54 0.0661111
r141 1 50 0.0505556
.ends

.subckt PM_XNOR2D2%net19 1 6 11 14 19 22 35 37 38 40 43 45 50 52 53 54 56 59 61
+ 62 63 64 72 79 80 87
c128 87 0 0.0972955f
c129 80 0 0.0324825f
c130 79 0 0.015835f
c131 72 0 0.129688f
c132 64 0 0.052874f
c133 63 0 0.0253962f
c134 62 0 0.547603f
c135 61 0 0.0451028f
c136 59 0 0.100639f
c137 56 0 0.550754f
c138 54 0 0.109073f
c139 53 0 0.104478f
c140 52 0 0.0646262f
c141 50 0 0.00809647f
c142 45 0 0.0342986f
c143 43 0 0.0230328f
c144 40 0 0.0446515f
c145 38 0 0.152936f
c146 37 0 0.420389f
c147 35 0 0.798943f
c148 6 0 0.310435f
r149 64 87 0.13
r150 62 80 0.0417772
r151 62 63 2.03
r152 61 63 0.039111
r153 60 79 0.0296412
r154 60 61 0.198333
r155 59 79 0.0296412
r156 59 78 0.501667
r157 57 72 0.072244
r158 56 79 0.00770322
r159 56 57 2.31
r160 53 72 0.00525
r161 52 53 0.05775
r162 50 87 0.0386436
r163 47 80 0.0233333
r164 43 78 0.0684127
r165 40 43 0.166667
r166 37 50 0.769641
r167 35 45 0.282372
r168 34 40 0.298409
r169 34 45 0.666667
r170 22 38 0.166203
r171 22 47 0.594406
r172 22 37 2.375
r173 22 38 2.375
r174 19 35 5
r175 14 64 0.02245
r176 11 72 0.033285
r177 6 14 0.241111
r178 1 52 0.0145611
r179 1 54 0.0323581
r180 1 54 0.07
.ends

.subckt PM_XNOR2D2%net18 1 6 9 12 13 16 27 28 30 34 45 57 58 64 66 67 68 72 75
+ 76 77 78 79
c77 79 0 0.044499f
c78 78 0 0.0483765f
c79 77 0 0.0664427f
c80 76 0 0.0317202f
c81 75 0 0.0894712f
c82 72 0 0.0499801f
c83 68 0 0.0803886f
c84 67 0 0.363561f
c85 66 0 0.030785f
c86 64 0 0.0431468f
c87 58 0 0.0320392f
c88 57 0 0.194984f
c89 45 0 0.362223f
c90 34 0 0.0196015f
c91 30 0 0.502484f
c92 28 0 0.780849f
c93 27 0 0.32058f
r94 76 77 0.13
r95 74 75 0.7
r96 72 74 0.039111
r97 72 79 0.116667
r98 68 78 0.0684127
r99 67 79 0.0684127
r100 66 78 0.163333
r101 63 66 0.039111
r102 63 64 0.186667
r103 58 77 0.0386436
r104 57 64 0.0534439
r105 45 76 0.0386436
r106 34 75 0.0684127
r107 34 35 0.428571
r108 28 32 0.831548
r109 27 35 0.234737
r110 26 32 0.049177
r111 26 27 6.5
r112 16 30 0.162499
r113 16 35 0.535714
r114 16 30 2.375
r115 13 57 0.0622222
r116 13 58 0.0505556
r117 12 28 5
r118 9 45 0.0661111
r119 6 68 0.0194444
r120 1 67 0.0505556
r121 1 6 0.241111
.ends

.subckt PM_XNOR2D2%IN1 3 6 9 13 15
c14 15 0 0.276037f
c15 13 0 0.437068f
c16 9 0 0.785772f
r17 13 17 0.831548
r18 11 15 0.831548
r19 10 17 0.049177
r20 9 11 3.08333
r21 9 10 4.58333
r22 6 15 1.25
r23 3 13 2.5
.ends

.subckt PM_XNOR2D2%VSS 1 6 11 12 29 46 47
c41 47 0 1.04239f
c42 46 0 1.05662f
c43 12 0 2.54322f
c44 11 0 2.29712f
c45 6 0 1.53789f
r46 46 47 0.26754
r47 12 47 0.267587
r48 11 46 0.26754
r49 11 29 0.154
r50 6 29 0.121333
r51 1 6 0.163333
.ends

.subckt PM_XNOR2D2%VDD 1 4 7 8 19 26 27 33
c41 33 0 1.41344f
c42 27 0 1.03923f
c43 26 0 1.05059f
c44 8 0 2.3447f
c45 7 0 1.33458f
c46 4 0 1.51246f
r47 32 33 0.178873
r48 26 27 0.26754
r49 8 33 0.17892
r50 7 32 0.178873
r51 7 27 0.267587
r52 4 26 0.26754
r53 4 19 0.107333
r54 1 19 0.14
.ends

.subckt PM_XNOR2D2%OUT 1 2 13
c11 1 0 1.23704f
r12 2 13 0.028875
r13 1 13 0.027125
r14 1 14 0.0563853
r15 1 14 0.07
.ends

