* File: XNOR2D4.cdl.pex
* Created: Wed Jan 15 21:19:09 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_XNOR2D4%IN2 3 6 9 12 17 21 22 24 27 28 29 30 31 32 35 38 39 42 44 45
+ 51 54 55 57 59 64
c111 64 0 0.0121749f
c112 59 0 0.00707727f
c113 57 0 0.468833f
c114 55 0 0.0240728f
c115 54 0 0.177145f
c116 51 0 0.0389584f
c117 45 0 0.130418f
c118 44 0 0.0774954f
c119 42 0 0.069474f
c120 39 0 0.536354f
c121 38 0 0.703223f
c122 35 0 0.320921f
c123 32 0 0.802782f
c124 31 0 0.535019f
c125 30 0 0.511696f
c126 29 0 0.028809f
c127 28 0 0.535328f
c128 27 0 0.0537898f
c129 24 0 0.419531f
c130 22 0 0.725615f
c131 21 0 0.184381f
r132 58 59 0.0417772
r133 57 64 0.0417772
r134 57 58 2.1
r135 51 64 0.0233333
r136 51 53 0.488662
r137 44 59 0.0233333
r138 44 45 0.512484
r139 41 56 0.049177
r140 41 42 2.33333
r141 39 56 0.831548
r142 37 38 7.61
r143 37 55 7.61
r144 35 42 0.279364
r145 35 38 7.61333
r146 33 54 0.071516
r147 32 55 0.282372
r148 30 31 10.055
r149 29 30 10.055
r150 28 54 0.473684
r151 28 31 10.0567
r152 27 29 0.279364
r153 27 53 1.41667
r154 22 48 0.831548
r155 21 24 0.831548
r156 21 47 3.58333
r157 18 48 0.049177
r158 18 45 2.58333
r159 17 47 0.387484
r160 17 44 0.125
r161 12 32 5
r162 12 33 5
r163 9 24 2.5
r164 6 39 5
r165 3 22 5
.ends

.subckt PM_XNOR2D4%net2 1 4 7 8 15 26 29 30 34 35 40 42 50 51 52 57 59 65 75 79
+ 81 83 84 89
c105 89 0 0.0317591f
c106 84 0 0.028393f
c107 83 0 0.0327328f
c108 81 0 0.0376027f
c109 79 0 0.0388532f
c110 75 0 0.206588f
c111 65 0 0.408114f
c112 59 0 0.837002f
c113 57 0 0.0401002f
c114 52 0 0.0222328f
c115 51 0 0.0502367f
c116 50 0 0.0213867f
c117 42 0 0.0515816f
c118 40 0 0.405983f
c119 35 0 0.0434794f
c120 34 0 0.536064f
c121 30 0 0.0928302f
c122 29 0 0.12901f
c123 26 0 0.328232f
c124 7 0 0.841038f
c125 4 0 0.394984f
r126 81 93 0.0417772
r127 81 89 0.14
r128 79 84 0.0417772
r129 79 83 0.14
r130 75 83 0.0684127
r131 65 89 0.0684127
r132 52 54 0.666667
r133 50 93 0.0233333
r134 50 51 0.494913
r135 47 50 0.15
r136 45 84 0.0233333
r137 42 45 0.166667
r138 39 59 15
r139 34 39 1
r140 33 54 0.0293644
r141 33 57 0.666667
r142 30 52 0.0293644
r143 30 51 1.83333
r144 28 47 0.32581
r145 28 29 3.66667
r146 27 42 0.298409
r147 26 29 0.279364
r148 26 27 5.16667
r149 15 40 0.125
r150 15 59 0.407372
r151 15 40 2.375
r152 8 75 0.0505556
r153 7 34 5
r154 4 35 0.125
r155 4 57 0.407372
r156 4 7 10.375
r157 4 35 4.875
r158 1 65 0.0661111
.ends

.subckt PM_XNOR2D4%net23 1 4 7 8 9 14 21 35 39 40 42 45 47 52 64 67 77 79 80 81
+ 86 88 89 90 91 92 95 113 120
c146 120 0 0.182685f
c147 113 0 0.0580876f
c148 112 0 0.0393566f
c149 107 0 0.00640079f
c150 95 0 0.052874f
c151 92 0 0.356242f
c152 91 0 0.360049f
c153 90 0 0.0278323f
c154 89 0 0.356176f
c155 88 0 0.0881306f
c156 86 0 0.11156f
c157 81 0 0.0250009f
c158 80 0 0.369013f
c159 79 0 0.278209f
c160 77 0 0.345175f
c161 67 0 0.0250009f
c162 66 0 0.00742492f
c163 64 0 0.122109f
c164 52 0 0.00809647f
c165 47 0 0.0342593f
c166 45 0 0.0230304f
c167 42 0 0.0447288f
c168 40 0 0.168898f
c169 39 0 0.782967f
c170 35 0 0.0220135f
c171 14 0 0.104847f
c172 9 0 0.129217f
c173 8 0 0.491651f
c174 7 0 1.15936f
c175 4 0 0.34749f
c176 1 0 0.359653f
r177 93 95 0.0399111
r178 93 120 0.13
r179 91 92 1.33
r180 90 91 1.33
r181 89 113 0.0417772
r182 89 92 1.33
r183 88 90 0.039111
r184 87 112 0.0296412
r185 87 88 0.198333
r186 86 112 0.0296412
r187 86 111 0.501667
r188 79 80 1.52437
r189 78 107 0.00770322
r190 78 79 1.52437
r191 77 112 0.00770322
r192 77 80 1.5246
r193 66 81 0.0534439
r194 65 107 0.0296412
r195 65 66 0.0816667
r196 64 107 0.0296412
r197 63 67 0.0534439
r198 63 64 0.385
r199 52 120 0.0386436
r200 49 113 0.0233333
r201 45 111 0.0684127
r202 42 45 0.166667
r203 39 52 0.769641
r204 35 47 0.282372
r205 34 42 0.298409
r206 34 47 0.666667
r207 21 40 0.166203
r208 21 49 0.594406
r209 21 39 4.875
r210 21 40 4.875
r211 14 95 0.0311111
r212 9 81 0.0622222
r213 8 14 0.241111
r214 4 7 10.5
r215 4 35 5
r216 1 67 0.0777778
.ends

.subckt PM_XNOR2D4%net26 1 2 3 6 9 10 15 18 31 32 36 40 83 84 94 96 98 109 112
+ 113 114 115 116
c87 116 0 0.209471f
c88 115 0 0.0483765f
c89 114 0 0.0664427f
c90 113 0 0.151059f
c91 112 0 0.165875f
c92 109 0 0.0499801f
c93 98 0 0.0797101f
c94 96 0 0.0305999f
c95 94 0 0.0796174f
c96 84 0 0.0508665f
c97 83 0 0.386414f
c98 40 0 0.0195382f
c99 36 0 0.804672f
c100 32 0 0.112392f
c101 31 0 0.321383f
c102 10 0 0.152397f
c103 9 0 0.994195f
c104 6 0 0.288412f
c105 3 0 0.419589f
c106 2 0 0.379266f
c107 1 0 0.242545f
r108 113 114 0.13
r109 111 112 0.7
r110 109 111 0.039111
r111 109 116 0.116667
r112 98 115 0.0684127
r113 97 116 0.0684127
r114 96 115 0.163333
r115 93 96 0.039111
r116 93 94 0.186667
r117 84 114 0.0386436
r118 83 94 0.0534439
r119 63 113 0.0386436
r120 40 112 0.0684127
r121 40 41 0.428571
r122 32 38 0.831548
r123 31 41 0.234737
r124 30 38 0.049177
r125 30 31 6.5
r126 18 36 0.162499
r127 18 41 0.535714
r128 18 36 4.875
r129 15 83 0.0777778
r130 15 84 0.0661111
r131 10 98 0.0505556
r132 6 9 10.5
r133 6 32 5
r134 3 97 0.0661111
r135 3 10 0.241111
r136 2 63 0.0661111
r137 1 2 0.233333
.ends

.subckt PM_XNOR2D4%IN1 3 6 9 13 15
c12 15 0 0.417373f
c13 13 0 0.729414f
c14 9 0 0.760938f
r15 13 17 0.831548
r16 11 15 0.831548
r17 10 17 0.049177
r18 9 11 3.08333
r19 9 10 4.58333
r20 6 15 2.5
r21 3 13 5
.ends

.subckt PM_XNOR2D4%VSS 1 2 3 4 5 6 43 80 81
c57 81 0 1.6482f
c58 80 0 1.68178f
c59 6 0 3.00986f
c60 5 0 1.63705f
c61 4 0 2.39892f
c62 3 0 1.39305f
c63 2 0 1.31985f
c64 1 0 1.57415f
r65 80 81 0.42308
r66 5 6 0.14
r67 5 81 0.423173
r68 4 80 0.42308
r69 3 4 0.14
r70 3 43 0.168
r71 2 43 0.116667
r72 1 2 0.182
.ends

.subckt PM_XNOR2D4%VDD 1 6 11 12 29 38 39 48 49
c53 49 0 1.12806f
c54 48 0 1.08859f
c55 39 0 1.66691f
c56 38 0 1.68894f
c57 29 0 1.53497f
c58 12 0 4.33902f
c59 11 0 2.587f
c60 6 0 1.10285f
r61 48 49 0.278413
r62 38 39 0.429333
r63 12 49 0.278507
r64 11 48 0.278413
r65 11 39 0.429333
r66 6 38 0.429333
r67 6 29 0.196
r68 1 29 0.154
.ends

.subckt PM_XNOR2D4%net27 1 3
c21 3 0 0.534965f
c22 1 0 0.227084f
r23 1 3 0.233333
.ends

.subckt PM_XNOR2D4%OUT 1 2 3 22 23 24
c20 24 0 0.112842f
c21 23 0 0.114362f
c22 22 0 0.426231f
c23 3 0 0.320243f
c24 2 0 0.850489f
c25 1 0 0.126254f
r26 22 24 0.021
r27 22 23 0.01925
r28 3 24 0.0118029
r29 3 40 0.0524574
r30 3 40 0.07
r31 1 23 0.0118029
r32 1 26 0.0524574
r33 1 2 0.233333
r34 1 26 0.07
.ends

