* File: XOR2D1.cdl.pex
* Created: Wed Jan 15 23:17:18 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_XOR2D1%IN2 3 6 9 12 17 23 24 26 29 30 31 35 38 39 46 48 49 51 56
c92 56 0 0.0145646f
c93 51 0 0.00494722f
c94 49 0 0.147939f
c95 48 0 0.308251f
c96 46 0 0.045669f
c97 39 0 0.170686f
c98 38 0 0.0961245f
c99 35 0 0.141705f
c100 31 0 0.025099f
c101 30 0 0.46977f
c102 29 0 0.0932364f
c103 26 0 0.148929f
c104 24 0 0.239517f
c105 23 0 0.186089f
r106 50 51 0.0417772
r107 49 56 0.0417772
r108 49 50 0.7
r109 45 56 0.0233333
r110 38 51 0.0233333
r111 38 39 0.512484
r112 34 48 5.91667
r113 31 46 0.282372
r114 30 34 0.542299
r115 29 45 0.916609
r116 29 46 0.75
r117 24 42 0.831548
r118 23 26 0.831548
r119 23 41 3.5
r120 20 42 0.049177
r121 20 39 2.66667
r122 17 41 0.49165
r123 17 38 0.0208333
r124 12 30 2.5
r125 12 31 2.5
r126 9 35 0.125
r127 9 48 0.407372
r128 9 35 0.5
r129 6 26 0.625
r130 3 24 1.25
.ends

.subckt PM_XOR2D1%net17 1 6 7 12 17 22 23 25 28 30 33 35 38 39 40 42 45 47 51 52
+ 53
c99 53 0 0.0177066f
c100 52 0 0.0324841f
c101 51 0 0.0807425f
c102 47 0 0.0378152f
c103 45 0 0.0386013f
c104 42 0 0.101548f
c105 40 0 0.0235973f
c106 39 0 0.110961f
c107 38 0 0.0457472f
c108 35 0 0.0586551f
c109 33 0 0.112789f
c110 30 0 0.192766f
c111 28 0 0.360187f
c112 25 0 0.200545f
c113 23 0 0.627314f
c114 22 0 0.160207f
c115 17 0 0.0409472f
r116 47 61 0.0417772
r117 47 52 0.14
r118 45 53 0.0417772
r119 45 51 0.14
r120 42 52 0.0684127
r121 35 61 0.0233333
r122 35 37 0.488662
r123 32 41 0.0558598
r124 32 33 2.33333
r125 30 41 0.577584
r126 28 33 0.279364
r127 28 40 7.83333
r128 26 39 0.071516
r129 25 40 0.282372
r130 24 38 0.115154
r131 23 39 0.473684
r132 23 24 12
r133 22 38 0.160783
r134 22 37 3.66667
r135 19 53 0.0233333
r136 17 38 0.115154
r137 17 19 0.305556
r138 12 25 1.25
r139 12 26 1.25
r140 7 51 0.0723016
r141 6 30 1.25
r142 1 42 0.0661111
.ends

.subckt PM_XOR2D1%net19 1 4 7 10 15 18 29 31 32 34 37 39 41 44 46 47 53 56 58 59
+ 60 61 73 81
c129 81 0 0.0842772f
c130 73 0 0.0131238f
c131 68 0 0.0073296f
c132 61 0 0.0483092f
c133 60 0 0.0231501f
c134 59 0 0.302509f
c135 58 0 0.0835152f
c136 56 0 0.111276f
c137 53 0 0.351791f
c138 47 0 0.0874092f
c139 46 0 0.0413172f
c140 44 0 0.00809647f
c141 41 0 0.00809647f
c142 39 0 0.0392365f
c143 37 0 0.0185784f
c144 34 0 0.0287345f
c145 32 0 0.0950143f
c146 31 0 0.243059f
c147 29 0 0.396296f
c148 7 0 0.0845995f
c149 4 0 0.177102f
c150 1 0 0.0653319f
r151 61 81 0.182
r152 59 77 0.0417772
r153 59 60 1.12
r154 58 60 0.039111
r155 57 73 0.0296412
r156 57 58 0.326667
r157 56 73 0.0296412
r158 56 72 0.513333
r159 54 68 0.0337467
r160 53 73 0.00770322
r161 53 54 1.61
r162 48 68 0.0100005
r163 47 68 0.0100005
r164 46 47 0.119
r165 44 81 0.0487198
r166 41 77 0.0233333
r167 37 72 0.0684127
r168 34 37 0.166667
r169 31 44 0.769641
r170 29 39 0.282372
r171 28 34 0.298409
r172 28 39 0.75
r173 18 32 0.166203
r174 18 41 0.594406
r175 18 31 1.125
r176 18 32 1.125
r177 15 29 2.5
r178 10 61 0.0279089
r179 7 48 0.05257
r180 4 10 0.147778
r181 1 46 0.0185931
.ends

.subckt PM_XOR2D1%net18 1 4 7 10 11 14 24 25 27 31 39 47 48 52 54 55 56 59 63 64
+ 65 66 69
c76 69 0 0.0763003f
c77 66 0 0.0442459f
c78 65 0 0.0621639f
c79 64 0 0.0698477f
c80 63 0 0.0317967f
c81 59 0 0.0641409f
c82 56 0 0.0600354f
c83 55 0 0.1768f
c84 54 0 0.0291527f
c85 52 0 0.0392418f
c86 48 0 0.0315033f
c87 47 0 0.0987595f
c88 39 0 0.190822f
c89 31 0 0.0270536f
c90 27 0 0.358954f
c91 25 0 0.419092f
c92 24 0 0.18198f
r93 63 64 0.135
r94 61 69 0.63
r95 59 61 0.039111
r96 59 66 0.186667
r97 56 65 0.0684127
r98 55 66 0.0684127
r99 54 65 0.21
r100 51 54 0.039111
r101 51 52 0.186667
r102 48 64 0.0386436
r103 47 52 0.0534439
r104 39 63 0.0386436
r105 31 69 0.0684127
r106 31 32 0.375
r107 25 29 0.577584
r108 24 32 0.268277
r109 23 29 0.0558598
r110 23 24 6
r111 14 27 0.187416
r112 14 32 0.34375
r113 14 27 1.125
r114 11 47 0.0777778
r115 11 48 0.0194444
r116 10 25 2.5
r117 7 39 0.0505556
r118 4 56 0.00388889
r119 1 55 0.0661111
r120 1 4 0.147778
.ends

.subckt PM_XOR2D1%IN1 3 6 9 13 15
c15 15 0 0.200983f
c16 13 0 0.290923f
c17 9 0 0.790783f
r18 13 17 0.831548
r19 11 15 0.831548
r20 10 17 0.049177
r21 9 11 3.08333
r22 9 10 4.58333
r23 6 15 0.625
r24 3 13 1.25
.ends

.subckt PM_XOR2D1%VSS 1 4 7 8 19 31
c36 31 0 1.44386f
c37 8 0 1.96204f
c38 7 0 1.36927f
c39 4 0 1.12074f
r40 30 31 0.184333
r41 8 31 0.184333
r42 7 30 0.184333
r43 7 19 0.137667
r44 4 19 0.14
r45 1 4 0.154
.ends

.subckt PM_XOR2D1%VDD 1 4 7 8 17
c33 17 0 0.898865f
c34 8 0 2.87879f
c35 7 0 1.08455f
c36 4 0 1.10583f
r37 7 8 0.387333
r38 7 17 0.287
r39 4 17 0.231
r40 1 4 0.154
.ends

.subckt PM_XOR2D1%OUT 1 2 10 11
c14 11 0 0.0653397f
c15 10 0 0.601011f
c16 1 0 0.287572f
r17 10 11 0.0385
r18 2 10 0.05775
r19 1 11 0.0145611
r20 1 16 0.0323581
r21 1 16 0.07
.ends

