* File: XOR2D4.cdl.pex
* Created: Thu Jan 16 00:02:09 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_XOR2D4%IN2 3 6 9 12 15 21 27 28 30 33 34 35 40 43 44 51 53 54 56 61
c94 61 0 0.0145569f
c95 56 0 0.00707727f
c96 54 0 0.461911f
c97 53 0 0.837002f
c98 51 0 0.040572f
c99 44 0 0.130418f
c100 43 0 0.0774954f
c101 40 0 0.405983f
c102 35 0 0.0232835f
c103 34 0 0.536311f
c104 33 0 0.0911793f
c105 30 0 0.419531f
c106 28 0 0.725615f
c107 27 0 0.184381f
c108 9 0 0.851171f
c109 6 0 0.405117f
r110 55 56 0.0417772
r111 54 61 0.0417772
r112 54 55 2.1
r113 50 61 0.0233333
r114 43 56 0.0233333
r115 43 44 0.512484
r116 39 53 15
r117 35 51 0.282372
r118 34 39 1
r119 33 50 0.92349
r120 33 51 0.666667
r121 28 47 0.831548
r122 27 30 0.831548
r123 27 46 3.58333
r124 24 47 0.049177
r125 24 44 2.58333
r126 21 46 0.387484
r127 21 43 0.125
r128 15 40 0.125
r129 15 53 0.407372
r130 15 40 2.375
r131 12 30 2.5
r132 9 34 5
r133 6 9 10.5
r134 6 35 5
r135 3 28 5
.ends

.subckt PM_XOR2D4%net17 1 4 5 12 18 21 24 26 27 28 31 34 35 38 39 45 49 50 51 52
+ 59 69 73 75 77 78 83
c109 83 0 0.0317591f
c110 78 0 0.028393f
c111 77 0 0.0327328f
c112 75 0 0.0376027f
c113 73 0 0.0388532f
c114 69 0 0.206588f
c115 59 0 0.408114f
c116 52 0 0.0240728f
c117 51 0 0.177145f
c118 50 0 0.0333545f
c119 49 0 0.0480888f
c120 48 0 0.0142692f
c121 45 0 0.0586853f
c122 39 0 0.0515816f
c123 38 0 0.069474f
c124 35 0 0.536354f
c125 34 0 0.703223f
c126 31 0 0.320921f
c127 28 0 0.802782f
c128 27 0 0.548321f
c129 26 0 0.52549f
c130 24 0 0.548988f
c131 21 0 0.150809f
c132 18 0 0.299584f
r133 75 87 0.0417772
r134 75 83 0.14
r135 73 78 0.0417772
r136 73 77 0.14
r137 69 77 0.0684127
r138 59 83 0.0684127
r139 49 50 0.375
r140 45 87 0.0233333
r141 45 47 0.488662
r142 42 78 0.0233333
r143 39 42 0.166667
r144 37 53 0.049177
r145 37 38 2.33333
r146 35 53 0.831548
r147 33 34 7.61
r148 33 52 7.61
r149 31 38 0.279364
r150 31 34 7.61333
r151 29 51 0.071516
r152 28 52 0.282372
r153 26 27 10.305
r154 26 50 10.305
r155 24 51 0.473684
r156 24 27 10.3067
r157 23 48 0.211723
r158 23 49 1.08333
r159 21 48 0.055023
r160 21 47 3.83333
r161 19 39 0.298409
r162 18 48 0.211723
r163 18 19 5.16667
r164 12 28 5
r165 12 29 5
r166 5 69 0.0505556
r167 4 35 5
r168 1 59 0.0661111
.ends

.subckt PM_XOR2D4%net19 1 4 7 8 9 14 21 35 39 40 42 45 47 52 64 67 77 79 80 81
+ 86 88 89 90 91 92 95 113 120
c141 120 0 0.182685f
c142 113 0 0.0580876f
c143 112 0 0.0393566f
c144 107 0 0.00640079f
c145 95 0 0.052874f
c146 92 0 0.356242f
c147 91 0 0.360049f
c148 90 0 0.0278323f
c149 89 0 0.356176f
c150 88 0 0.0895655f
c151 86 0 0.133622f
c152 81 0 0.0250009f
c153 80 0 0.369013f
c154 79 0 0.278209f
c155 77 0 0.328722f
c156 67 0 0.0250009f
c157 66 0 0.00742492f
c158 64 0 0.122109f
c159 52 0 0.00809647f
c160 47 0 0.0348574f
c161 45 0 0.0230304f
c162 42 0 0.0486449f
c163 40 0 0.168898f
c164 39 0 0.782967f
c165 35 0 0.0220135f
c166 14 0 0.104847f
c167 9 0 0.129217f
c168 8 0 0.491651f
c169 7 0 1.15936f
c170 4 0 0.34749f
c171 1 0 0.359653f
r172 93 95 0.0399111
r173 93 120 0.13
r174 91 92 1.33
r175 90 91 1.33
r176 89 113 0.0417772
r177 89 92 1.33
r178 88 90 0.039111
r179 87 112 0.0296412
r180 87 88 0.198333
r181 86 112 0.0296412
r182 86 111 0.501667
r183 79 80 1.52437
r184 78 107 0.00770322
r185 78 79 1.52437
r186 77 112 0.00770322
r187 77 80 1.5246
r188 66 81 0.0534439
r189 65 107 0.0296412
r190 65 66 0.0816667
r191 64 107 0.0296412
r192 63 67 0.0534439
r193 63 64 0.385
r194 52 120 0.0386436
r195 49 113 0.0233333
r196 45 111 0.0684127
r197 42 45 0.166667
r198 39 52 0.769641
r199 35 47 0.282372
r200 34 42 0.298409
r201 34 47 0.666667
r202 21 40 0.166203
r203 21 49 0.594406
r204 21 39 4.875
r205 21 40 4.875
r206 14 95 0.0311111
r207 9 81 0.0622222
r208 8 14 0.241111
r209 4 7 10.5
r210 4 35 5
r211 1 67 0.0777778
.ends

.subckt PM_XOR2D4%net18 1 2 3 6 9 10 15 18 31 32 36 40 83 84 94 96 98 109 112
+ 113 114 115 116
c86 116 0 0.209471f
c87 115 0 0.0483765f
c88 114 0 0.0664265f
c89 113 0 0.151059f
c90 112 0 0.165875f
c91 109 0 0.0499801f
c92 98 0 0.0797101f
c93 96 0 0.0305999f
c94 94 0 0.0796174f
c95 84 0 0.0508665f
c96 83 0 0.386414f
c97 40 0 0.0195382f
c98 36 0 0.804672f
c99 32 0 0.112392f
c100 31 0 0.321383f
c101 10 0 0.152397f
c102 9 0 0.994195f
c103 6 0 0.288412f
c104 3 0 0.419589f
c105 2 0 0.379266f
c106 1 0 0.24438f
r107 113 114 0.13
r108 111 112 0.7
r109 109 111 0.039111
r110 109 116 0.116667
r111 98 115 0.0684127
r112 97 116 0.0684127
r113 96 115 0.163333
r114 93 96 0.039111
r115 93 94 0.186667
r116 84 114 0.0386436
r117 83 94 0.0534439
r118 63 113 0.0386436
r119 40 112 0.0684127
r120 40 41 0.428571
r121 32 38 0.831548
r122 31 41 0.234737
r123 30 38 0.049177
r124 30 31 6.5
r125 18 36 0.162499
r126 18 41 0.535714
r127 18 36 4.875
r128 15 83 0.0777778
r129 15 84 0.0661111
r130 10 98 0.0505556
r131 6 9 10.5
r132 6 32 5
r133 3 97 0.0661111
r134 3 10 0.241111
r135 2 63 0.0661111
r136 1 2 0.233333
.ends

.subckt PM_XOR2D4%IN1 3 6 9 13 15
c12 15 0 0.417373f
c13 13 0 0.729414f
c14 9 0 0.760938f
r15 13 17 0.831548
r16 11 15 0.831548
r17 10 17 0.049177
r18 9 11 3.08333
r19 9 10 4.58333
r20 6 15 2.5
r21 3 13 5
.ends

.subckt PM_XOR2D4%VSS 1 2 3 4 5 6 43 80 81
c56 81 0 1.6482f
c57 80 0 1.68173f
c58 6 0 3.00986f
c59 5 0 1.63705f
c60 4 0 2.39892f
c61 3 0 1.39461f
c62 2 0 1.31985f
c63 1 0 1.57415f
r64 80 81 0.42308
r65 5 6 0.14
r66 5 81 0.423173
r67 4 80 0.42308
r68 3 4 0.14
r69 3 43 0.168
r70 2 43 0.116667
r71 1 2 0.182
.ends

.subckt PM_XOR2D4%VDD 1 6 11 12 29 38 39 48 49
c53 49 0 1.12806f
c54 48 0 1.08859f
c55 39 0 1.66691f
c56 38 0 1.68077f
c57 29 0 1.53497f
c58 12 0 4.33902f
c59 11 0 2.587f
c60 6 0 1.10285f
r61 48 49 0.278413
r62 38 39 0.429333
r63 12 49 0.278507
r64 11 48 0.278413
r65 11 39 0.429333
r66 6 38 0.429333
r67 6 29 0.196
r68 1 29 0.154
.ends

.subckt PM_XOR2D4%net21 1 3
c19 3 0 0.534965f
c20 1 0 0.228325f
r21 1 3 0.233333
.ends

.subckt PM_XOR2D4%OUT 1 2 3 22 23 24
c20 24 0 0.112842f
c21 23 0 0.114362f
c22 22 0 0.426231f
c23 3 0 0.320243f
c24 2 0 0.850489f
c25 1 0 0.126254f
r26 22 24 0.021
r27 22 23 0.01925
r28 3 24 0.0118029
r29 3 40 0.0524574
r30 3 40 0.07
r31 1 23 0.0118029
r32 1 26 0.0524574
r33 1 2 0.233333
r34 1 26 0.07
.ends

